US06849639B2
Step E: 5-oxo-1-{3-((2-pyridylamino)methyl)phenyl}pyrrolidine-3-carboxylic acid
To a solution of methyl 5-oxo-1-{3-((2-pyridylamino)methyl)phenyl}pyrrolidine-3-carboxylate in water/THF/MeOH was added 1.0 eq 1N NaOH. The volume ratio of NaOH/water/THF/MeOH was 1:3:4:4. The reaction was stirred at room temperature overnight, and then concentrated in vacuo. The compound was used in the next step without further purification.

reactant | methyl 5-oxo-1-{3-((2-pyridylamino)methyl)phenyl}pyrrolidine-3-carboxylate | O=C1CC(CN1C1=CC(=CC=C1)CNC1=NC=CC=C1)C(=O)OC | C18H19N3O3
reactant | NaOH | 1N, 1.0 eq | [OH-].[Na+]
reactant | NaOH water THF MeOH | [OH-].[Na+].O.C1CCOC1.CO
solvent | water THF MeOH | O.C1CCOC1.CO
product | 5-oxo-1-{3-((2-pyridylamino)methyl)phenyl}pyrrolidine-3-carboxylic acid | O=C1CC(CN1C1=CC(=CC=C1)CNC1=NC=CC=C1)C(=O)O | C17H17N3O3
